US08283353B2
2-methyl-4-(4-oxocyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of 4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one (0.76 g), 6M hydrochloric acid (3 mL) and tetrahydrofuran (4 mL) was stirred at 70° C. for 22 hr. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography and recrystallized (ethyl acetate) to give the title compound as a colorless solid (0.31 g, 44%).

reactant | 4-(1,4-dioxaspiro[4.5]dec-8-yl)-2-methyl-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.76 g | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O)CCC)N=C(N1)C | C32H34N6O5
reactant | hydrochloric acid | 6M, 3 mL | Cl | ClH
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2-methyl-4-(4-oxocyclohexyl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.31 g, 44% | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NOC(N2)=O)=O)C2CCC(CC2)=O)=N1 | C30H30N6O4
